US07572820B2
C. 2-[4-Chloro-5-cyano-2-(difluoromethyl)-1H-indol-1-yl]-N,N-dimethylpropanamide
To a solution of 2-[4-chloro-5-cyano-2-(difluoromethyl)-1H-indol-1-yl]propanoic acid (0.010 g, 0.034 mmol) in anhydrous DMF (1.5 mL) was added HATU (0.014 g, 0.037 mmol) and DIEA (0.0048 g, 0.0037 mmol) and stirred at rt. After 10 min, dimethylamine (2M in THF, 0.17 mL, 0.34 mmol) was added and stirred at rt for 45 min. The mixture was partitioned between Et2O and 0.2N HCl. The organic phase was washed with 0.2N HCl, 0.2N NaOH and sat'd brine, dried (Na2SO4) and concentrated in vacuo. The residue was purified by flash chromatography (0-1% MeOH—CH2Cl2 gradient) and the product was crystallized from CH2Cl2-hexanes to afford the title compound as a white solid (0.007 g, 64% yield): MS (ES) m/z 326 (M+1).

reactant | 2-[4-chloro-5-cyano-2-(difluoromethyl)-1H-indol-1-yl]propanoic acid | 0.034 mmol, 0.010 g | ClC1=C2C=C(N(C2=CC=C1C#N)C(C(=O)O)C)C(F)F | C13H9ClF2N2O2
reactant | HATU | 0.037 mmol, 0.014 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.0037 mmol, 0.0048 g | CCN(C(C)C)C(C)C | C8H19N
reactant | dimethylamine | 0.34 mmol, 2M, 0.17 mL | CNC | C2H7N
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 2-[4-Chloro-5-cyano-2-(difluoromethyl)-1H-indol-1-yl]-N,N-dimethylpropanamide | 0.007 g, 64% yield | ClC1=C2C=C(N(C2=CC=C1C#N)C(C(=O)N(C)C)C)C(F)F | C15H14ClF2N3O
